US05651992
cAMP Supplemented Activating Egg Extract
Each aliquot was warmed to 23° C. and sampled over time to determine P32 -dCTP incorporation into replicated DNA. At each time point, a 7 μl aliquot was taken, frozen on dry ice, and later thawed and digested by the addition of 10 μl replication sample buffer (80 mM Tris (pH 8.0), 8 mM EGTA, 0.13% phosphoric acid, 10% Ficoll, 5% SDS, 0.2% bromphenol blue) containing proteinase K (1.0 mg/ml) for 2 hours at room temperature. Incorporated radioactivity was analyzed by electrophoresis on a 0.8% agarose gel (50 V, 20 hours) followed by vacuum drying the gel and counting on a Betascope.

reactant | dCTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C9H16N3O13P3
reactant | Tris | 80 mM, pH 8.0 | C(C(CO)(CO)N)O | C4H11NO3
reactant | EGTA | 8 mM | C(COCCOCCN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H24N2O10
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | bromphenol blue | C=1C=CC2=C(C1)C(OS2(=O)=O)(C=3C=C(C(=C(C3)Br)O)Br)C=4C=C(C(=C(C4)Br)O)Br | C19H10Br4O5S
product | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
